US07138425B2
c) 2-[4-Methoxy-5-[5-(3,5-difluorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-methoxyphenyl)-5-(3,5-difluorophenyl)benzoxazole (70 mg, 0.20 mmol) and 1,2,4-benzenetricarboxylic anhydride (38 mg, 0.20 mmol) the title compound was obtained (72 mg, 68%). 1H NMR (DMSO) δ 13.79(s, 1H), 8.42(dd, 1H), 8.33(s, 1H), 8.23(d, 1H), 8.21(d, 1H), 8.10(d, 1H), 7.90(d, 1H), 7.83(dd, 1H), 7.72(dd, 1H), 7.56(m, 2H), 7.48(d, 1H), 7.26(m, 1H), 4.03(s, 3H). MS 527.3 m/z (M+H)+.

reactant | 2-(3-amino-6-methoxyphenyl)-5-(3,5-difluorophenyl)benzoxazole | 0.20 mmol, 70 mg | NC=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=CC(=C2)F)F | C20H14F2N2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.20 mmol, 38 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Methoxy-5-[5-(3,5-difluorophenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C2=CC(=CC(=C2)F)F)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C29H16F2N2O6
